### PR TITLE
[Merged by Bors] - feat(ModularForms): norm and trace maps

### PR DESCRIPTION
**Pull request by loefflerd**
Define norm and trace maps from modular forms for a finite-index inclusion of levels; and use these to show that modular forms of negative weight are 0, and modular forms of weight 0 are constant, for any arithmetic subgroup.

---

- [x] depends on: #32514

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 1]
```diff
@@ -0,0 +1,271 @@
...
+
+open scoped ModularForm Topology Filter Manifold
+
+variable {𝒢 ℋ : Subgroup (GL (Fin 2) ℝ)}
+  {F : Type*} (f : F) [FunLike F ℍ ℂ] {k : ℤ}
+
+lemma IsCusp.mono {c : OnePoint ℝ} (hGH : 𝒢 ≤ ℋ) (hc : IsCusp c 𝒢) : IsCusp c ℋ :=
+  match hc with | ⟨h, hh, hp, hc⟩ => ⟨h, hGH hh, hp, hc⟩
+
+lemma IsCusp.of_relindex_ne_zero {c : OnePoint ℝ} (hGH : 𝒢.relIndex ℋ ≠ 0) (hc : IsCusp c ℋ) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]: Can these two declarations go to a more basic file?

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 2]
```diff
@@ -0,0 +1,271 @@
...
+
+open Pointwise in
+lemma Subgroup.conjAct_pointwise_smul_iff {G : Type} [Group G] {H : Subgroup G} {g : G} :
+    ConjAct.toConjAct g • H = H ↔ g ∈ normalizer H := by
+  rw [← H.normalizer.inv_mem_iff]
+  simp only [Subgroup.ext_iff, mem_pointwise_smul_iff_inv_smul_mem,
+    ← ConjAct.toConjAct_inv, ConjAct.toConjAct_smul, mem_normalizer_iff, inv_inv, Iff.comm]
+
+open Pointwise in
+lemma Subgroup.conjAct_pointwise_smul_eq_self
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]: Same here.

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 3]
```diff
@@ -0,0 +1,271 @@
...
+
+variable (ℋ) [𝒢.IsFiniteRelIndex ℋ]
+
+/-- The trace of a modular form, as a modular form. -/
+def ModularForm.trace [ModularFormClass F 𝒢 k] : ModularForm ℋ k where
+  __ := SlashInvariantForm.trace ℋ f
+  holo' := by
+    simp only [SlashInvariantForm.trace, SlashInvariantForm.coe_mk,
+      UpperHalfPlane.mdifferentiable_iff, Function.comp_def, Finset.sum_apply]
+    -- there is no `MDifferentiable.finset_sum`?
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]: Can you add it? It should be very easy.

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 4]
```diff
@@ -0,0 +1,271 @@
...
+      infer_instance
+    · refine mul_neg_of_neg_of_pos hk ?_
+      norm_cast
+      rw [← Subgroup.index_eq_card, ← Subgroup.relIndex, ← MonoidHom.range_eq_map]
+      exact Nat.pos_of_ne_zero this.relIndex_ne_zero
+  have : PerfectSpace ℍ := by
+    constructor
+    apply isPreconnected_univ.preperfect_of_nontrivial
+    rw [Set.nontrivial_univ_iff]
+    -- this should be an instance?
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]: `Set.Nontrivial` is not a class, so I guess this is impossible.

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 5]
```diff
@@ -0,0 +1,271 @@
...
+variable [SlashInvariantFormClass F 𝒢 k]
+
+/-- For `f` invariant under `𝒢`, this is a function on `(ℋ ⧸ 𝒢 ⊓ ℋ) × ℍ → ℂ` which packages up the
+translates of `f` by `ℋ`. -/
+def quotientFunc (q : 𝒬) (τ : ℍ) : ℂ :=
+  q.liftOn (fun g ↦ ((f : ℍ → ℂ) ∣[k] g.val⁻¹) τ) (fun h h' hhh' ↦ by
+    obtain ⟨j, hj, hj'⟩ : ∃ g ∈ 𝒢, h' = h * g := by
+      rw [← Quotient.eq_iff_equiv, Quotient.eq, QuotientGroup.leftRel_apply] at hhh'
+      exact ⟨h⁻¹ * h', hhh', mod_cast (mul_inv_cancel_left h h').symm⟩
+    simp [hj', SlashAction.slash_mul, SlashInvariantFormClass.slash_action_eq f j⁻¹ (inv_mem hj)])
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean:40]: I found it surprising that we dont have some API already to do this. Should we not be doing this more generally, since it seems in lots of places we have the situation of taking some H-invariant object and turning it into a G-invariant one by using a norm or trace (for H < G some fin index subgroup).

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 6]
```diff
@@ -0,0 +1,271 @@
...
+  induction q using Quotient.inductionOn with | h r =>
+  simp [quotientFunc_mk, SlashAction.slash_mul]
+
+lemma SlashAction.sum_slash {β G α ι : Type*} [Monoid G] [AddCommGroup α] [SlashAction β G α]
+    (k : β) (g : G) {a : ι → α} {s : Finset ι} :
+    (∑ i ∈ s, a i) ∣[k] g = ∑ i ∈ s, a i ∣[k] g := by
+  classical
+  induction s using Finset.induction_on with
+  | empty => simp
+  | insert i t hi IH => simp [hi, IH]
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]: Could  this go in the `SlashActions.lean` file?

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 7]
```diff
@@ -0,0 +1,271 @@
...
+      |g.det.val| ^ (Fintype.card ι - 1) • (∏ i, f i ∣[k] g) := by
+  simpa using ModularForm.prod_slash k g Finset.univ_nonempty
+
+variable (ℋ)
+
+/-- The trace of a slash-invariant form, as a slash-invariant form. -/
+def SlashInvariantForm.trace [𝒢.IsFiniteRelIndex ℋ] : SlashInvariantForm ℋ k where
+  toFun := letI := Fintype.ofFinite 𝒬; ∑ q : 𝒬, quotientFunc f q
+  slash_action_eq' h hh := by
+    letI := Fintype.ofFinite 𝒬
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]:
```suggestion
    let := Fintype.ofFinite 𝒬
```
("I" is for "inline", which is rarely useful in a proof; it used to be "instance" in Lean 3...)
Using `letI`/`haveI` can make sense in definitions, to obtain better terms, though.

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 8]
```diff
@@ -0,0 +1,271 @@
...
+    simpa [SlashAction.sum_slash, quotientFunc_smul f hh]
+      using Equiv.sum_comp (MulAction.toPerm (_ : ℋ)) _
+
+/-- The norm of a slash-invariant form, as a slash-invariant form. -/
+@[simps]
+def SlashInvariantForm.norm [𝒢.IsFiniteRelIndex ℋ] [ℋ.HasDetPlusMinusOne] :
+    SlashInvariantForm ℋ (k * Nat.card 𝒬) where
+  toFun := letI := Fintype.ofFinite 𝒬; ∏ q : 𝒬, quotientFunc f q
+  slash_action_eq' h hh := by
+    letI := Fintype.ofFinite 𝒬
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]:
```suggestion
    let := Fintype.ofFinite 𝒬
```

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 9]
```diff
@@ -0,0 +1,271 @@
...
+    refine tendsto_finset_sum .univ fun q _ ↦ ?_
+    induction q using Quotient.inductionOn with | h r =>
+    obtain ⟨r, hr⟩ := r
+    refine (CuspForm.translate f _).zero_at_cusps' ?_ γ rfl
+    simp only [inv_inv]
+    apply h.of_relindex_ne_zero
+    rw [← ℋ.conjAct_pointwise_smul_eq_self (ℋ.le_normalizer hr), 𝒢.relIndex_pointwise_smul]
+    exact Subgroup.IsFiniteRelIndex.relIndex_ne_zero
+
+
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]:
```suggestion

```

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 10]
```diff
@@ -0,0 +1,271 @@
...
+    simpa [← Finset.card_univ, ModularForm.prod_slash _ _ Finset.univ_nonempty,
+      quotientFunc_smul f hh, Subgroup.HasDetPlusMinusOne.abs_det hh,
+      -Matrix.GeneralLinearGroup.val_det_apply] using Equiv.prod_comp (MulAction.toPerm (_ : ℋ)) _
+
+end SlashInvariantForm
+
+section ModularForm
+
+variable (ℋ) [𝒢.IsFiniteRelIndex ℋ]
+
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean:78]: Is it conceivable that `to_additive` could be used to deduce the trace versions from the norm versions?

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 11]
```diff
@@ -0,0 +1,271 @@
...
+    induction q using Quotient.inductionOn with | h r =>
+    obtain ⟨r, hr⟩ := r
+    refine (ModularForm.translate f _).bdd_at_cusps' ?_ γ rfl
+    simp only [inv_inv]
+    apply h.of_relindex_ne_zero
+    rw [← Subgroup.conjAct_pointwise_smul_eq_self (Subgroup.le_normalizer hr),
+      Subgroup.relIndex_pointwise_smul]
+    exact Subgroup.IsFiniteRelIndex.relIndex_ne_zero
+
+lemma UpperHalfPlane.eq_zero_of_frequently {f : ℍ → ℂ} (hf : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) f)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]: This could perhaps go into an earlier file on functions on the upper half plane.

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean (hunk 10 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/NormTrace.lean:78]: It would be nice, but I don't think it'll work, because the `norm` versions change the weight while the `trace` versions do not.

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/NormTrace.lean]: What I meant is that we can provide instances `Nontrivial ℍ` and `{X : Type*} [TopologicalSpace X] [T1Space X] [ConnectedSpace X] [Nontrivial X] : PerfectSpace X`. I'll code those up. (There are surprisingly few `PerfectSpace` instances in mathlib; I wonder why?)

Comment (riccardobrasca) [reply Mathlib/NumberTheory/ModularForms/NormTrace.lean]: I see, those are perfectly fine of course.

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/NormTrace.lean:40]: This would indeed be nice to have, but I'm a bit wary of getting into it. The problem is that the actions here are moving the types around – modular forms for different subgroups are different types, and the modular-form product changes the weight as well. Moreover, the slash action isn't a `MulAction` in the usual mathlib sense (it acts on the wrong side for a start, and the norm map muddles up the weights). 

So I think if we had a general framework for norm/trace maps associated to group actions, the amount of "glue code" needed to deduce the modular-forms statements needed here from the general framework would actually be longer than doing the proofs directly. I've cleaned up the code a bit to move "extraneous" stuff to other files; and the core arguments giving the properties of the norm/trace maps – the stuff one might conceivably get from a general framework – are now no more than a few dozen lines anyway.

**Comment by loefflerd** [comment]
Since this PR is getting a bit long, I've split off the lemmas on `MDifferentiable.finset_sum` etc into a separate PR #32514.

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean (hunk 10 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ModularForms/NormTrace.lean:78]: OK. Parts of the code are rather similar, though (at least they were when I looked last), but maybe some duplication is unavoidable here.

File: Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean [hunk 12]
```diff
@@ -119,4 +119,34 @@ lemma mdifferentiable_smul {g : GL (Fin 2) ℝ} (hg : 0 < g.det.val) :
     MDifferentiable 𝓘(ℂ) 𝓘(ℂ) (fun τ : ℍ ↦ g • τ) :=
   (contMDiff_smul hg).mdifferentiable le_top
 
+lemma eq_zero_of_frequently {f : ℍ → ℂ} (hf : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) f)
+    {τ : ℍ} (hτ : ∃ᶠ z in 𝓝[≠] τ, f z = 0) : f = 0 := by
+  let F : ℂ → ℂ := f ∘ .ofComplex
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean]:
```suggestion
```
`F` is never used in the proof.

File: Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean [hunk 13]
```diff
@@ -119,4 +119,34 @@ lemma mdifferentiable_smul {g : GL (Fin 2) ℝ} (hg : 0 < g.det.val) :
...
+  rw [UpperHalfPlane.mdifferentiable_iff] at hf
+  have := hf.analyticOnNhd isOpen_upperHalfPlaneSet
+  have := this.eqOn_zero_of_preconnected_of_frequently_eq_zero (z₀ := ↑τ) ?_ τ.2 ?_
+  · ext w
+    convert this w.property
+    rw [Function.comp_apply, ofComplex_apply_of_im_pos]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean]:
```suggestion
  ext w
  convert this.eqOn_zero_of_preconnected_of_frequently_eq_zero (z₀ := ↑τ) ?_ τ.2 ?_ w.property
  · rw [Function.comp_apply, ofComplex_apply_of_im_pos w.property]
```
This looks a bit like a "stream-of-consciousness `have`". But `convert` can do both things at once anyway. (Plus, the `w.property` at the end avoids having two goals after the `rw`.)

File: Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean [hunk 14]
```diff
@@ -119,4 +119,34 @@ lemma mdifferentiable_smul {g : GL (Fin 2) ℝ} (hg : 0 < g.det.val) :
...
+    rfl
+  · exact (Complex.isConnected_of_upperHalfPlane subset_rfl (by grind)).isPreconnected
+  · contrapose! hτ
+    rw [eventually_nhdsWithin_iff, ← isOpenEmbedding_coe.map_nhds_eq, eventually_map] at hτ
+    rw [eventually_nhdsWithin_iff]
+    filter_upwards [hτ] with a ha
+    simp_all
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Manifold.lean]:
```suggestion
    simpa using ha
```
makes clearer what is going on.

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 15]
```diff
@@ -0,0 +1,176 @@
...
+    exact norm_ne_zero ℋ hn
+  · ext τ
+    simpa [Finset.prod_eq_zero_iff, QuotientGroup.exists_mk]
+      using ⟨1, by simpa using congr_fun hf τ⟩
+
+open scoped MatrixGroups
+
+lemma ModularForm.isZero_of_neg_weight [𝒢.IsArithmetic]
+    {k : ℤ} (hk : k < 0) (f : ModularForm 𝒢 k) : f = 0 := by
+  suffices ModularForm.norm 𝒮ℒ f = 0 by simp_all [ModularForm.norm_eq_zero_iff]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]:
```suggestion
  suffices ModularForm.norm 𝒮ℒ f = 0 by simpa [ModularForm.norm_eq_zero_iff] using this
```
(more focused)

File: Mathlib/NumberTheory/ModularForms/NormTrace.lean [hunk 16]
```diff
@@ -0,0 +1,176 @@
...
+      (by rw [zero_mul, CongruenceSubgroup.Gamma_one_top, MonoidHom.range_eq_map]; infer_instance)
+  -- But the constant must be 0, since `f - f I` vanishes at `I`.
+  have : ModularForm.norm 𝒮ℒ (f - .const (f I)) I = 0 := by
+    simpa [Finset.prod_eq_zero_iff, QuotientGroup.exists_mk] using ⟨1, by simp⟩
+  obtain rfl : c = 0 := by simpa [hc]
+  -- So `f - f I` has zero norm, hence it's the zero form.
+  simp only [Function.const_zero, coe_eq_zero_iff, norm_eq_zero_iff, sub_eq_zero] at hc
+  exact ⟨f I, by rw [hc, ModularForm.coe_const, Function.const_apply]⟩
+
+lemma ModularForm.weight_zero_const [𝒢.IsArithmetic] (f : ModularForm 𝒢 0) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/NormTrace.lean]:
```suggestion
lemma ModularForm.eq_const_of_weight_zero [𝒢.IsArithmetic] (f : ModularForm 𝒢 0) :
```
seems to be closer to the naming convention (similarly for the `private lemma` above).

File: Mathlib/NumberTheory/ModularForms/SlashActions.lean [hunk 17]
```diff
@@ -191,6 +206,27 @@ theorem mul_slash_SL2 (k1 k2 : ℤ) (A : SL(2, ℤ)) (f g : ℍ → ℂ) :
...
+  induction s using Finset.induction_on with
+  | empty => simp_all
+  | insert i t hi IH =>
+    rcases t.eq_empty_or_nonempty with rfl | ht
+    · simp
+    have : 0 < t.card := by aesop
+    simp only [prod_insert hi, card_insert_of_notMem hi, Nat.cast_succ,
+      mul_add, mul_one, add_comm]
+    simp [IH ht, mul_slash, show t.card + 1 - 1 = t.card - 1 + 1 by omega, pow_succ,
+      ← mul_smul, mul_comm]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/SlashActions.lean]:
```suggestion
    simp only [prod_insert hi, card_insert_of_notMem hi, Nat.cast_succ,
      mul_add, mul_one, add_comm]
    simp [IH ht, mul_slash, show t.card + 1 - 1 = t.card - 1 + 1 by grind, pow_succ,
      ← mul_smul, mul_comm]
```
